US05308811
Into a 300 ml round bottom flask, 7.5 g of commercially available biscyclopentadienylzirconium dichloride was introduced, and the interior of the flask was thoroughly flushed with nitrogen. Then, 120 ml of ethyl ether was added thereto at -20° C. to obtain a slurry. To this slurry, 32 ml of a hexane solution of methyllithium (1.6M) was gradually added at -20° C, and the mixture was stirred at 0° C for 30 minutes. Then, the solvent was evaporated, and the remained solid was sublimed and purified under reduced pressure of 2×10-4 mmHg at a temperature of from 60 to 80° C to obtain biscyclopentadienylzirconium dimetyl. Separately, an aqueous solution containing 3.40 g of silver nitrate and 6.84 g of sodium tetraphenyl borate were mixed to obtain silver tetraphenyl borate.

reactant | biscyclopentadienylzirconium dichloride | [Cl-].[Cl-].C1(C=CC=C1)[Zr+2]C1C=CC=C1
reactant | methyllithium | 1.6M | C[Li]
solvent | hexane | 32 ml | CCCCCC | C6H14
product | biscyclopentadienylzirconium | C1(C=CC=C1)[Zr]C1C=CC=C1 | InChI=1S/2C5H5.Zr/c2*1-2-4-5-3-1;/h2*1-5H;
